US09340544B2
[2-(5-Chloro-3-methyl-pyrazol-1-yl)-9-methyl-9H-purin-6-yl]-(4-chloro-phenyl)-amine (Compound 6.8)
Was prepared according to Example 6 from (2-chloro-9-methyl-9H-purin-6-yl)(4-chloro-phenyl)-amine and 5-chloro-3-methyl-1H-pyrazole.

reactant | (2-chloro-9-methyl-9H-purin-6-yl)(4-chloro-phenyl)-amine | ClC1=NC(=C2N=CN(C2=N1)C)NC1=CC=C(C=C1)Cl | C12H9Cl2N5
reactant | 5-chloro-3-methyl-1H-pyrazole | ClC1=CC(=NN1)C | C4H5ClN2
product | [2-(5-Chloro-3-methyl-pyrazol-1-yl)-9-methyl-9H-purin-6-yl]-(4-chloro-phenyl)-amine | ClC1=CC(=NN1C1=NC(=C2N=CN(C2=N1)C)NC1=CC=C(C=C1)Cl)C | C16H13Cl2N7
